US09340549B2
To a nitrogen purged solution of 4-iodo-N-(quinolin-8-yl)benzamide (250 mg, 0.66 mmol) in 1,4-dioxane (5 mL) were added cesium carbonate (435.37 mg, 1.33 mmol), xantphos (77.31 mg, 0.13 mmol), Pd2(dba)3 (61.18 mg, 0.06 mmol) and 4-(2-fluorophenyl)-5,5-dimethyloxazolidin-2-one (167.73 mg, 0.80 mmol). The mixture was purged with nitrogen for 5-10 minutes. The reaction mixture was then stirred for 3 hours at 100° C. After completion of the reaction (monitored by TLC, TLC system: 30% EtOAc in hexane), the reaction mixture was cooled to ambient temperature and filtered through Celite® brand filter aid. The filtrate was concentrated and purified by column chromatography using silica gel and eluting with 30% EtOAc in hexane to afford (R+S) 4-(4-(2-fluorophenyl)-5,5-dimethyl-2-oxooxazolidin-3-yl)-N-(quinolin-8-yl)benzamide (60 mg, 19.71%) as an off-white solid. 1H NMR (400 MHz, DMSO-d6): δ 10.57 (s, 1H), 8.95 (dd, J=1.2 Hz, 1H), 8.68 (d, J=7.6 Hz, 1H), 8.46 (d, J=8.3 Hz, 1H), 8.00-7.95 (m, 2H), 7.82-7.62 (m, 5H), 7.41-7.35 (m, 2H), 7.19-7.08 (m, 2H), 5.84 (s, 1H), 1.69 (s, 3H), 1.03 (s, 3H). m/z (ESI) 456.1 (M+H)+.

reactant | 4-iodo-N-(quinolin-8-yl)benzamide | 0.66 mmol, 250 mg | IC1=CC=C(C(=O)NC=2C=CC=C3C=CC=NC23)C=C1 | C16H11IN2O
reactant | cesium carbonate | 1.33 mmol, 435.37 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | xantphos | 0.13 mmol, 77.31 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | 4-(2-fluorophenyl)-5,5-dimethyloxazolidin-2-one | 0.80 mmol, 167.73 mg | FC1=C(C=CC=C1)C1NC(OC1(C)C)=O | C11H12FNO2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.06 mmol, 61.18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(4-(2-fluorophenyl)-5,5-dimethyl-2-oxooxazolidin-3-yl)-N-(quinolin-8-yl)benzamide | 60 mg, 19.71% | FC1=C(C=CC=C1)C1N(C(OC1(C)C)=O)C1=CC=C(C(=O)NC=2C=CC=C3C=CC=NC23)C=C1 | C27H22FN3O3
